US06756388B1
Trifluoro-methanesulfonic acid benzothiazol-6-yl ester.
To a suspension of 6-Hydroxybenzothiazole (1.00 gm, 6.61 mmol) in 30 mL of methylene chloride,at −78° C. was added triethylamine (2.76 mL, 19.8 mmol) and 4-dimethylaminopyridine (800 mg, 6.5 mmol) then trifluoromethanesulfonic anhydride (1.33 mL, 7.9 mmol). The reaction was allowed to warm to room temperature and stirred for 1 hr. The reaction was then quenched with saturated sodium bicarbonate solution and extracted into methylene chloride. The organics were combined, dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was chromatographed on silica gel using 1:10 Ethyl acetate/Hexanes to 1:4 Ethyl acetate/Hexanes as the gradient eluant to yield 1.41 gm of the title compound.

reactant | 6-Hydroxybenzothiazole | 6.61 mmol, 1.00 gm | OC1=CC2=C(N=CS2)C=C1 | C7H5NOS
reactant | triethylamine | 19.8 mmol, 2.76 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 7.9 mmol, 1.33 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 6.5 mmol, 800 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Trifluoro-methanesulfonic acid benzothiazol-6-yl ester | 1.41 gm | S1C=NC2=C1C=C(C=C2)OS(=O)(=O)C(F)(F)F | C8H4F3NO3S2
